US07186729B2
Step 4: 2-[5-(3-{3-[(4-Chloro-benzyl)-isopropyl-amino]-pyrrolidin-1-yl}-propylidene)-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl]-propan-2-ol
To a solution of (4-chloro-benzyl)-isopropyl-pyrrolidin-3-yl-amine (0.68 mmol, 1.7 eq) in acetonitrile:water (4:1) was added potassium carbonate (0.8 mmol, 2 eq) and (E)-2-[5-(3-bromo-propylidene)-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl]-propan-2-ol (0.4 mmol, 1.0 eq) and the resulting mixture was stirred at 50° C. for 24 h. The reaction mixture was concentrated in vacuo, diluted with ethyl acetate, and dried over sodium sulfate. The crude product was purified by flash chromatography using ethyl acetate/methanol (5%). 1H-NMR (CDCl3) δ: 0.85 (6H, d), 1.50–1.90 (10H, m), 2.10–2.60 (8H, m), 3.50 (3H, m), 5.30 (2H, br, s), 6.10 (1H, t), 6.80 (1H, dd), 7.10–7.40 (8H, m), 7.50 (1H, d), 8.50 (1H, dd). ESI-MS m/z: 546 (M+1), UV retention time: 1.40 min.

reactant | (4-chloro-benzyl)-isopropyl-pyrrolidin-3-yl-amine | 0.68 mmol, 1.7 eq | ClC1=CC=C(CN(C2CNCC2)C(C)C)C=C1 | C14H21ClN2
reactant | potassium carbonate | 0.8 mmol, 2 eq | C([O-])([O-])=O.[K+].[K+]
reactant | (E)-2-[5-(3-bromo-propylidene)-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl]-propan-2-ol | 0.4 mmol, 1.0 eq | BrCC\C=C/1\C2=C(OCC3=C1C=CC=N3)C=CC(=C2)C(C)(C)O | C19H20BrNO2
solvent | acetonitrile water | C(C)#N.O
product | 2-[5-(3-{3-[(4-Chloro-benzyl)-isopropyl-amino]-pyrrolidin-1-yl}-propylidene)-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl]-propan-2-ol | ClC1=CC=C(CN(C2CN(CC2)CCC=C2C3=C(OCC4=C2C=CC=N4)C=CC(=C3)C(C)(C)O)C(C)C)C=C1 | C33H40ClN3O2
